US03962218
At -60° C., 20 ml. of a 20% solution of diisobutyl-aluminum hydride in hexane was added to a solution of 2 g. of 2-[3α-p-biphenyl-carbonyloxy-5α-hydroxy-2β-(3,3-ethylenedioxy-octan-1-yl)-cyclopent-1α-yl]-acetic acid γ-lactone in 60 ml. of toluene. After 20 minutes, 3 ml. of isopropyl alcohol was added dropwise to the reaction mixture, the latter was heated to room temperature, mixed with 10 ml. of water, and agitated for 10 minutes. The mixture was thereafter extracted with ethyl acetate and the ethyl acetate solution was shaken with NaCl solution, dried over magnesium sulfate, and evaporated to dryness under vacuum. The residue was filtered with ether over 45 g. of silica gel, the elution yielding first p-phenylbenzyl alcohol. With ether/dioxane (9 + 1), 1.05 g. of 2-[3α,5α-dihydroxy-2β-(3,3-ethylenedioxy-octan-1-yl)-cyclopent-1α-yl]-acetaldehyde γ-hemiacetal was obtained as a colorless oil. The thin-layer chromatogram (ether/dioxane 2 + 1) showed a uniform spot having an Rf value of 0.23.

reactant | diisobutyl-aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
reactant | water | O | H2O
reactant | hexane | CCCCCC | C6H14
product | p-phenylbenzyl alcohol | C1(=CC=CC=C1)C1=CC=C(CO)C=C1 | C13H12O
